Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with recent concussion presenting with acute
episode of altered mental status, hypoglycemia, and elevated
liver enzymes from ___. 

History obtained from mother and patient. He sustained a
concussion about 1 month ago, he reports that he noticed one of
his friends getting beat up at the restaurant where he works
part-time and went to defend him, ended up getting "slammed down
on a counter and kicked in the face." He received 2 days of
Bactrim for ?infection in the setting of a bloody nose but this
was discontinued. In that time denies other medications,
supplements, or vitamin use. Brain MRI on ___ did not show 
acute
abnormalities. His household came down with a viral illness 
about
2.5 weeks ago, and so his mother reports she dosed him with
Tylenol and ibuprofen per bottle instructions, at first using
regular strength Tylenol every 4 hours and then extra strength
Tylenol every ___ hours, 2 tabs at a time. She reports that he
stopped taking Tylenol a week prior to admission. Denies recent
travel or outdoor activity although does have a dog that goes 
out
into their yard. 

On ___, the patient went drinking with his friends and drank
___ of a small bottle of tequila." The patient reports he
doesn't drink frequently and doesn't like the feeling of being
drunk, last drink before this one was over New Years and then 6
months ago. He reports using marijuana almost daily, but denies
use of other substances including heroin, cocaine, or
prescription meds. His mother notes that she went to pick him up
at 2 AM and that he was "buzzed" but able to help take care of
his friends. However, when she woke up at 10 AM, she found him 
on
the couch with blankets stacked on top of him, shivering
uncontrollably, not responding appropriately to questions but
complaining of sharp abdominal pain and "turning a gray/purple
color, whiter than a sheet." At the time he also had an axillary
temp of ___ F. No focal deficits, soiling, or vomiting noted
during this episode. She called his pediatrician who recommended
that he present for medical attention. 

At ___ was found to have ETOH level 63. Rapid strep and
monospot negative. AST 850s, ALT 470s, as well as a glucose of 
39
for which he was given dextrose. Lipase, tbili, albumin were all
normal. A liver ultrasound revealed inflammation concerning for
acute hepatitis and he was transferred to ___ for further
management. 
 
Past Medical History:
Childhood Asthma (no longer using inhalers) 
 
Social History:
___
Family History:
history of thyroid disorder
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 97.9 F, BP 131 / 75, HR 50, RR 18, 100Ra
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, no tremor 
or
asterixis 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:  
VS: 97.4 127/73 45 16 99%RA
GENERAL: NAD  
HEENT: AT/NC 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema   
NEURO: A&Ox3, moving all 4 extremities with purpose
 
Pertinent Results:
ADMISSION LABS
===============
___ 07:35PM BLOOD WBC-11.8* RBC-4.81 Hgb-13.2* Hct-40.0 
MCV-83 MCH-27.4 MCHC-33.0 RDW-13.2 RDWSD-40.3 Plt ___
___ 07:35PM BLOOD Neuts-81.1* Lymphs-11.6* Monos-6.5 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-9.54* AbsLymp-1.37 
AbsMono-0.77 AbsEos-0.03* AbsBaso-0.02
___ 07:35PM BLOOD ___ PTT-25.4 ___
___ 07:35PM BLOOD Plt ___
___ 07:35PM BLOOD Glucose-61* UreaN-17 Creat-0.8 Na-135 
K-6.6* Cl-107 HCO3-21* AnGap-7*
___ 07:35PM BLOOD ALT-814* AST-977* AlkPhos-91 TotBili-0.5
___ 07:35PM BLOOD Albumin-4.5
___ 07:35PM BLOOD ___ pO2-76* pCO2-32* pH-7.40 
calTCO2-21 Base XS--3

DISCHARGE LABS
===============
___ 05:08AM BLOOD WBC-4.7# RBC-4.25* Hgb-11.4* Hct-35.9* 
MCV-85 MCH-26.8 MCHC-31.8* RDW-13.5 RDWSD-41.7 Plt ___
___ 05:08AM BLOOD Plt ___
___ 05:08AM BLOOD ___ PTT-27.7 ___
___ 04:40AM BLOOD Glucose-96 UreaN-14 Creat-0.7 Na-142 
K-4.2 Cl-103 HCO3-27 AnGap-12
___ 04:40AM BLOOD ALT-174* AST-33 AlkPhos-98 TotBili-0.3
___ 04:40AM BLOOD Albumin-4.3 Calcium-9.5 Phos-4.8* Mg-1.9
___ 04:40AM BLOOD FSH-1.4* LH-5.9
___ 05:08AM BLOOD T4-6.9 T3-103
___ 06:20AM BLOOD Cortsol-17.9
___ 05:30AM BLOOD Cortsol-15.0
___ 04:40AM BLOOD Cortsol-3.3 Testost-696
___ 07:35PM BLOOD AMA-NEGATIVE Smooth-POSITIVE*
___ 07:35PM BLOOD ___
___ 05:05AM BLOOD HIV Ab-NEG
___ 07:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICROBIOLOGY
===============
Time Taken Not Noted     Log-In Date/Time: ___ 9:33 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 7:35 pm Blood (CMV AB)
      Grossly Hemolyzed Specimen Lipemic Specimen. 

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 

___ 7:35 pm Blood (EBV)
      Grossly Hemolyzed Specimen Lipemic Specimen. 

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

___ BLOOD CULTURE NGTD
 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ year old male with recent concussion presenting after being 
found by his mother cold and altered after a night of heavy 
alcohol use. Presented to ___ and was hypoglycemic into 
30's and had trasaminitis to 800's. He was transferred to ___ for 
hepatitis evalaution. He was found to have low Am cortisol and 
subsequently diagnosed with secondary AI ___ TBI. Started on 
hydrocortisone and scheduled for follow up with hepatology and 
endocrinology. 

# Secondary Adrenal Insufficiency
Pt had stated he has had some episodes of orthostatic 
hypotension prior to episode and was also hypoglycemic on 
presentation, so AM cortisol was checked which was low at 1.4. 
Due to concern for adrenal insufficiency, ___ stim test was 
ordered. He did respond to a cortisol of 17.9, which is lower 
than expected response. Endocrinology was consulted who 
recommended hydrocortisone 10mg AM and 5mg ___, IV rescue dose to 
take home with patient in case of adrenal crisis, along with 
follow-up with endocrinology in 3 months. He remained 
hemodynamically stable throughout his stay.

# Transaminitis, likely hypotensive liver injury: Presented with 
AST/ALT elevated in 800's, no elevation in bilirubin or other 
signs of synthetic dysfunction. Transaminitis + signs of 
inflammation on OSH RUQ u/s. Most likely consistent with insult 
of etoh, Tylenol, and potentially hypotension during initial 
presentation at home. Repeat RUQ was without signs of 
inflammation or cirrhosis. Infectious work up remained negative. 
He did have a positive in ___ with a titer of 1:20, which was 
suspected to be a false positive with the self-resolution of 
symptoms. Given overall story, injury in setting of hypotension 
___ adrenal insufficiency and stress of acute EtOH intoxication. 
Will see Hepatology as an outpatient. 

# Hypoglycemia: Occured in the setting of ETOH use. There are 
signs of ketoacidosis on his ___ labs: anion gap with 
bicarb 19, urine studies + for
ketones, but FSBG remained stable between 60-100. Improved after 
dextrose. Suspected to be secondary to adrenal insufficiency. 
Given glucometer and instructions to check when having symptoms 
of hypoglycemia and no need for daily management.

# Post-concussive syndrome: based on patient/mother's 
history,may have residual difficulties after concussion. MRI/MRA 
negative for acute pathology. TBI may also have made him more 
sensitive to ETOH. 

TRANSITIONAL ISSUES:
====================
- New Medications: Hydrocortisone 10mg in AM and 5mg ___
- Given guidance about symptoms of when to give himself 100 mg 
hydrocortisone IM as rescue, will follow-up with endocrinology 
for guidance
- Given glucometer for when experiencing signs/symptoms of 
hypoglycemia. Determine the need of this in the long-term 
setting. 
- Follow up on viral studies
- Follow up with PCP, ___, and endocrinology
- Can consider outpatient follow up in concussion clinic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
2. Ibuprofen 400-600 mg PO Q8H:PRN Headache 

 
Discharge Medications:
1.  FreeStyle Lancets (lancets) 28 gauge miscellaneous PRN 
RX *lancets [Lancets,Thin] 23 gauge  as needed Disp #*100 Each 
Refills:*1 
2.  FreeStyle Lite Meter (blood-glucose meter)    miscellaneous 
prn 
RX *blood-glucose meter [FreeStyle Lite Meter]  check sugar 
whenever feeling dizzy, lightheaded, shaky, or faint  Disp #*1 
Kit Refills:*0 
3.  FreeStyle Lite Strips (blood sugar diagnostic)    
miscellaneous As needed 
RX *blood sugar diagnostic [FreeStyle Lite Strips]  Check blood 
glucose whenever feeling dizzy, lightheaded, weak, or shaky.  
Disp #*50 Strip Refills:*1 
4.  Hydrocortisone 10 mg PO QAM 
RX *hydrocortisone 5 mg 2 tablet(s) by mouth every morning Disp 
#*90 Tablet Refills:*3 
5.  Hydrocortisone 5 mg PO QPM  
6.  Ibuprofen 400-600 mg PO Q8H:PRN Headache  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Toxin-induced liver INJURY
Suspected secondary adrenal insufficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WERE YOU IN THE HOSPITAL?
- You were in the hospital for abdominal pain and confusion. 

WHAT HAPPENED IN THE HOSPITAL?
- You had an ultrasound which showed some inflammation of your 
liver.  
- After your pain improved, a second ultrasound was normal. 
- We monitored your labs and they improved.
- You were found to have low hormones on your labs (low 
cortisol), which can make your blood pressure low and have low 
blood sugar

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- You should continue to take all of your medications as 
prescribed, including your hydrocortisone 10mg every morning and 
5mg every evening.
- You should follow up with your doctors as ___ below. 
- Check your blood sugars at home anytime you feel lightheaded, 
nauseaous, or dizziness. If your number is greater than 200 or 
less than 65, call your doctor or go to the ER immediately

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___